US05961668
Preparation of 4-(2,4-diaminophenoxymethyl)-2,2-dimethyl-1,3-dioxolane
215 ml of methanol are introduced into a 0.7 l autoclave, 85.3 g (0.3 mole) of 4-(2,4-dinitrophenoxymethyl)-2,2-dimethyl-1,3-dioxolane (step a) are dissolved therein and 0.6 g of palladium on active carbon 10% (Degussa) is added. After the autoclave has been closed and blanketed with nitrogen, hydrogenation is carried out under a pressure of 4 bar and at a temperature of 35 to 40° C. until no more hydrogen is taken up. 1.3 g of active carbon is added under nitrogen to the warm solution and the catalyst is filtered off. 42 g of 70% sulfuric acid are added dropwise to the solution while cooling with ice at 5° C. The product precipitated is filtered off under suction, washed with methanol and dried.

reactant | 4-(2,4-dinitrophenoxymethyl)-2,2-dimethyl-1,3-dioxolane | 0.3 mole, 85.3 g | [N+](=O)([O-])C1=C(OCC2OC(OC2)(C)C)C=CC(=C1)[N+](=O)[O-] | C12H14N2O7
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 0.6 g | [Pd] | Pd
solvent | methanol | 215 ml | CO | CH4O
product | 4-(2,4-diaminophenoxymethyl)-2,2-dimethyl-1,3-dioxolane | NC1=C(OCC2OC(OC2)(C)C)C=CC(=C1)N | C12H18N2O3
